US06008230
To a solution of 3-carbamoyl-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline (122 mg) in dimethylformamide was added thionyl chloride (53.9 mg), and the mixture was stirred for 30 minutes at ambient temperature. The mixture was poured into saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-n-hexane) to give 3-cyano-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline (89.9 mg).

reactant | 3-carbamoyl-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline | 122 mg | C(N)(=O)C=1C=NC2=C(C=CC=C2C1OCC)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H15Cl2N3O3
reactant | thionyl chloride | 53.9 mg | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-cyano-8-(2,6-dichlorobenzoylamino)-4-ethoxyquinoline | 89.9 mg | C(#N)C=1C=NC2=C(C=CC=C2C1OCC)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H13Cl2N3O2
